US04051254
3-methyl-4-(n-propoxyacetamido)phenyl N-methylcarbamate
According to the procedure of Example 5, 3-methyl-4-aminophenyl N-methylcarbamate was reacted with n-propoxyacetyl chloride to yield a viscous oil as the product.

reactant | 3-methyl-4-aminophenyl N-methylcarbamate | CNC(OC1=CC(=C(C=C1)N)C)=O | C9H12N2O2
reactant | n-propoxyacetyl chloride | C(CC)OCC(=O)Cl | C5H9ClO2
product | 3-methyl-4-(n-propoxyacetamido)phenyl N-methylcarbamate | CNC(OC1=CC(=C(C=C1)NC(COCCC)=O)C)=O | C14H20N2O4
